US08541575B2
In a vial suitable for microwave irradiation N-[3-(4-Bromo-1-ethyl-1H-pyrazol-3-yl)-2,4-difluoro-phenyl]-2,5-difluoro-N-(2-methoxy-ethoxymethyl)-benzenesulfonamide (288 mg, 0.509 mmol) was dissolved in dimethoxyethane (4.5 mL) and Ar was bubbled through the solution for 5 minutes. Water (0.5 mL) was added, followed by 4-pyridylboronic acid pinacol ester (209 mg, 1.018 mmol, 2 eq), cesium carbonate (497 mg, 1.527 mmol, 3 eq) and Pd(dppf)Cl2.DCM (42 mg, 0.051 mmol, 0.1 eq). The vial was sealed and irradiated in the microwave oven at 100° C. for 30 minutes. The reaction mixture was then filtered over a Celite pad and concentrated under reduced pressure. The residue was taken up with ethyl acetate and washed with saturated aqueous NaHCO3 and brine. The organic phase was dried over Na2SO4 and evaporated to dryness. The crude product was purified by chromatography on silica gel (DCM/MeOH 97:3) to give 247 mg (86% yield) of N-[3-(1-ethyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-2,4-difluoro-phenyl]-2,5-difluoro-N-(2-methoxy-ethoxymethyl)-benzenesulfonamide as an off-white solid.

reactant | N-[3-(4-Bromo-1-ethyl-1H-pyrazol-3-yl)-2,4-difluoro-phenyl]-2,5-difluoro-N-(2-methoxy-ethoxymethyl)-benzenesulfonamide | 0.509 mmol, 288 mg | BrC=1C(=NN(C1)CC)C=1C(=C(C=CC1F)N(S(=O)(=O)C1=C(C=CC(=C1)F)F)COCCOC)F | C21H20BrF4N3O4S
reactant | 4-pyridylboronic acid pinacol ester | 1.018 mmol, 209 mg, 2 eq | N1=CC=C(C=C1)B1OC(C)(C)C(C)(C)O1 | C11H16BNO2
reactant | cesium carbonate | 1.527 mmol, 497 mg, 3 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DCM | 0.051 mmol, 42 mg, 0.1 eq | C(Cl)Cl | CH2Cl2
solvent | dimethoxyethane | 4.5 mL | C(OC)COC | C4H10O2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[3-(1-ethyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-2,4-difluoro-phenyl]-2,5-difluoro-N-(2-methoxy-ethoxymethyl)-benzenesulfonamide | 247 mg, 86% yield | C(C)N1N=C(C(=C1)C1=CC=NC=C1)C=1C(=C(C=CC1F)N(S(=O)(=O)C1=C(C=CC(=C1)F)F)COCCOC)F | C26H24F4N4O4S
